US07582651B2
(3) (2E)-2-({(bis(4-fluorophenyl)methyl]amino}methylene)butanedinitrile
To a solution of formyl succinonitrile potassium salt (6.67 g, 45.6 mmol) and 1,1-bis(4-fluorophenyl) methaneamine (11.0 g, 50.2 mmol) in water (19 ml) was added acetic acid (19 ml) at room temperature, and the mixture was stirred 100° C. for 30 minutes. The solvent was distilled off under reduced pressure. The residue was poured into iced water, made basic with potassium carbonate and then extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give the objective product as oily matter. Yield (amount) 14.0 g, yield (rate) 99.3%

reactant | formyl succinonitrile potassium salt | 45.6 mmol, 6.67 g | [K].C(=O)C(C#N)CC#N
reactant | 1,1-bis(4-fluorophenyl) methaneamine | 50.2 mmol, 11.0 g | FC1=CC=C(C=C1)C(N)C1=CC=C(C=C1)F | C13H11F2N
reactant | acetic acid | 19 ml | C(C)(=O)O | C2H4O2
solvent | water | 19 ml | O | H2O
product | (2E)-2-({(bis(4-fluorophenyl)methyl]amino}methylene)butanedinitrile | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N\C=C(\C#N)/CC#N | C18H13F2N3
